US04333963
4-(2-Cyanoethoxy)butyl Acrylate
Following the procedures described in Example 1, 4-(2-cyanoethoxy)-1-butanol (bp 148°-152° C./4.5 mm Hg) is prepared from 1,4-butanediol and acrylonitrile, acrylation of which gives the desired product.

reactant | 4-(2-cyanoethoxy)-1-butanol | C(#N)CCOCCCCO | C7H13NO2
reactant | 1,4-butanediol | C(CCCO)O | C4H10O2
reactant | acrylonitrile | C(C=C)#N | C3H3N
product | 4-(2-Cyanoethoxy)butyl Acrylate | C(C=C)(=O)OCCCCOCCC#N | C10H15NO3
